US06982348B2
4) ethyl (2RS,3RS)-2-[3-(tert-butyloxy)benzyl]-3-(4-fluorophenyl)-3-hydroxypropanoate
To a suspension of anhydrous zinc chloride (8.17 g, 60 mmol) in diethyl ether (100 ml) was added sodium borohydride (4.54 g, 120 mmol) by small portions, and the mixture was stirred for 2 hrs. Insoluble material was filtered off and washed with diethyl ether. The filtrate was ice-cooled, and a solution of ethyl 3-(4-fluorophenyl)-2-[3-(tert-butyloxy)benzyl]-3-oxopropanoate (10.8 g, 30 mmol) in diethyl ether (20 ml) was added. The mixture was stirred at room temperature for 1 hr., ice-cooled again and water was added to stop the reaction. The mixture was washed with 5% aqueous potassium hydrogen sulfate solution and water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1) to give the objective substance (8.9 g, 79%) as a colorless oil. IR ν maxNeatcm−1: 1728, 1605, 1510, 1260, 1225, 1179, 1154. 1H-NMR (CDCl3) δ: 0.93(3H, t, J=7.2 Hz), 1.31(9H, s, But), 2.90-3.05(3H, m), 3.87(2H, d, J=7.2 Hz), 4.95-5.10(1H, m), 6.70-6.80(1H, m), 6.80(1H, d, J=7.8 Hz), 7.00-7.20(3H, m), 7.30-7.45(2H, m).

reactant | sodium borohydride | 120 mmol, 4.54 g | [BH4-].[Na+]
reactant | ethyl 3-(4-fluorophenyl)-2-[3-(tert-butyloxy)benzyl]-3-oxopropanoate | 30 mmol, 10.8 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C)(C)C)=O | C22H25FO4
reactant | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 60 mmol, 8.17 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-2-[3-(tert-butyloxy)benzyl]-3-(4-fluorophenyl)-3-hydroxypropanoate | C(C)(C)(C)OC=1C=C(CC(C(=O)OCC)C(O)C2=CC=C(C=C2)F)C=CC1 | C22H27FO4
